US07919468B2
N-Boc-Tyr(Bn)-Ala-Trp-NH(CH2)4NHBoc:
compound SP305R. Same procedure as above with Trp-NH(CH2)4NHBoc (204.6 mg, 0.546 mmol), N-Boc-Tyr(Bn)-Ala-OH (242 mg, 0.546 mmol), EDC (116 mg, 0.61 mmol) and HOBt (82.2 mg, 0.61 mmol) in CH2Cl2/DMF (2.2 mL, 1/1). The crude tripeptide (282 mg) can be recrystallized from hot THF to give a white solid as an analytical sample (89.1 mg, 31.5%). 1H NMR (300 MHz, DMSO-d6) δ 1.18-1.4 (m, 7H, 2 CH2 putrescine, CH3), 1.28 (s, 9H, (CH3)3), 1.37 (s, 9H, (CH3)3), 2.61 (m, 1H, CH2 Tyr or Trp), 2.85-3.1 (m, 7H, CH2 Tyr, CH2 Trp, 2 CH2 putrescine), 4.08 (m, 1H, CHα), 4.29 (m, 1H, CHα), 4.45 (m, 1H, CHα), 5.03 (s, 2H, CH2 (Bn)), 6.73 (m, 1H), 6.87-7.43 (m, 14 aromatic H), 7.56 (d, J=7.7 Hz, 1H), 7.83 (m, 1H), 7.99 (m, 2H), 10.8 (s, 1NH). 13C NMR (75 MHz, DMSO-d6) δ 18.2 (CH3), 26.2, 26.8 (2 CH2 putrescine), 28.1 (CH2 Trp), 28.2 ((CH3)3), 36.3 (CH2 Tyr), 38.2, 39.2 (2 CH2 putrescine), 48.2, 53.4, 55.8 (CHα Ala, Tyr, Trp), 69 (CH2 (Bn)), 77.3, 78 (2 C(CH3)3), 109.8, 111.1, 114.2, 118.1, 118.4, 120.7, 123.4, 127.3, 127.5, 127.7, 128.3, 130.1, 130.3, 136, 137.2 (19 aromatic C), 155.2, 155.5, 156.8 (Car-O, 2 CO carbamate), 170.7, 171.4, 171.8 (3 CO amide). Anal. Calcd. for C44H58N6O8: C, 66.14; H, 7.32; N, 10.52. Found: C, 65.89; H, 7.34; N, 10.77.

reactant | Trp-NH(CH2)4NHBoc | 0.546 mmol, 204.6 mg | N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C | C20H30N4O3
reactant | N-Boc-Tyr(Bn)-Ala-OH | 0.546 mmol, 242 mg | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O)C(=O)OC(C)(C)C | C24H30N2O6
reactant | EDC | 0.61 mmol, 116 mg
reactant | HOBt | 0.61 mmol, 82.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | CH2Cl2 DMF | 2.2 mL | C(Cl)Cl.CN(C)C=O
product | N-Boc-Tyr(Bn)-Ala-Trp-NH(CH2)4NHBoc | N([C@@H](CC1=CC=C(C=C1)OCC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)N[C@@H](CC1=CNC2=CC=CC=C12)C(=O)NCCCCNC(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C44H58N6O8
